US09193693B2
Step 1. Methyl 2-(benzofuran-2-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate
Into a 10-mL sealed tube, was placed methyl 2-chloro-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate (200 mg, 0.68 mmol, 1.00 equiv), benzofuran-2-ylboronic acid (220 mg, 1.36 mmol, 1.99 equiv), Pd(PPh3)4 (157 mg, 0.14 mmol, 0.20 equiv), K3PO4 (577 mg, 2.73 mmol, 4.01 equiv), 1,4-dioxane (4 mL). The resulting solution was stirred for overnight at 100° C. in an oil bath. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:40). This resulted in 160 mg (63%) of methyl 2-(benzofuran-2-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate as a yellow solid.

reactant | methyl 2-chloro-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate | 0.68 mmol, 200 mg, 1.00 equiv | ClC1=NC2=CC=C(C=C2N=C1N(C)C(C)C)C(=O)OC | C14H16ClN3O2
reactant | benzofuran-2-ylboronic acid | 1.36 mmol, 220 mg, 1.99 equiv | O1C(=CC2=C1C=CC=C2)B(O)O | C8H7BO3
reactant | K3PO4 | 2.73 mmol, 577 mg, 4.01 equiv | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
catalyst | Pd(PPh3)4 | 0.14 mmol, 157 mg, 0.20 equiv | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | Methyl 2-(benzofuran-2-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate | O1C(=CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1N=C2N(C)C(C)C)C(=O)OC | C22H21N3O3
